US05629325
5-(3,3-dimethylbutynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine (270 mg, 1 mmol) in 5 mL of methylene chloride was added triethylamine (0.5 mL), Pd(II) (19 mg), CuI (a catalytic amount) and 0.3 mL of 3,3-dimethyl-1-butyne (2 mmol). The reaction mixture was heated at reflux for 40 hours. The mixture was diluted with methylene chloride, and 2 mL of 10% NaOH were added. The organic layer was separated and dried, and the solvent was removed under reduced pressure. The free base was purified by chromatography, eluting with 1 to 2% methanol in methylene chloride. MS (CI/NH3) m/z 273 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.32 (s, 9H), 1.80 (br m, 3H), 2.05 (m, 1H), 2.36 (m, 1H), 2.52 (s, 3H), 2.73 (m, 1H), 3.17 (m, 1H), 3.95 (m, 1H), 4.05 (m, 1H), 7.18 (m, 1H), 8.20 (m, 2H). The salt was prepared by treatment with HCl in ether, as described above, to give 100 mg of the title compound. MS (CI/NH3) m/z 273 (M+H)+. 1H NMR (D2O, 300 MHz) δ8.44 (d, J=2.2, 1H), 8.40 (s, 1H), 8.01 (m, 1H), 4.61 (dd, J=2.9, 11.1, 1H), 4.54 (dd, J=5.5, 11.0, 1H), 3.96 (m, 1H), 3.26 (m, 1H), 3.05 (s, 3H), 2.41 (m, 1H), 2.22 (m, 1H), 2.10 (m, 2H). Anal. Calcd for C17H24N2O·2.0 HCl·0.4 H2O: C, 57.92; H, 7.66; N, 7.95. Found: C, 58.10; H, 7.74; N, 7.57. [α]25D =-7.70° (c 1.46, MeOH).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 1 mmol, 270 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethyl-1-butyne | 2 mmol, 0.3 mL | CC(C#C)(C)C | C6H10
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2 mL | [OH-].[Na+]
catalyst | CuI | [Cu]I
product | 5-(3,3-dimethylbutynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride | 100 mg | Cl.Cl.CC(C#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C)(C)C | InChI=1S/C17H24N2O.2ClH/c1-17(2,3)8-7-14-10-16(12-18-11-14)20-13-15-6-5-9-19(15)4;;/h10-12,15H,5-6,9,13H2,1-4H3;2*1H/t15-;;/m0../s1
